US05137890
6-Allyl-2-amino-4-(4-chlorophenyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine Dihydrochloride
The title compound was prepared as described in Example 17 starting with 2-amino-4-(4-chlorophenyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine dihydrochloride (1.5 g, 4.5 mmol) and allyl bromide (0.4 mL, 4.6 mmol) instead of iodoethane to produce 0.65 g (39%) of 6-allyl-2-amino-4-(4-chlorophenyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine dihydrochloride. m.p. 248°-250° C. MS: 301 (MH+).

reactant | 2-amino-4-(4-chlorophenyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine dihydrochloride | 4.5 mmol, 1.5 g | Cl.Cl.NC=1N=C(C2=C(N1)CCNC2)C2=CC=C(C=C2)Cl
reactant | allyl bromide | 4.6 mmol, 0.4 mL | C(C=C)Br | C3H5Br
product | 6-allyl-2-amino-4-(4-chlorophenyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine dihydrochloride | 0.65 g, 39% | Cl.Cl.C(C=C)N1CC2=C(N=C(N=C2C2=CC=C(C=C2)Cl)N)CC1 | InChI=1S/C16H17ClN4.2ClH/c1-2-8-21-9-7-14-13(10-21)15(20-16(18)19-14)11-3-5-12(17)6-4-11;;/h2-6H,1,7-10H2,(H2,18,19,20);2*1H
